US03963728
When the sodium salt of 6-n-amyl-2-hydroxypyridine, 5-cyano-2-hydroxypyridine, 2-hydroxy-4-methoxypyridine, 2-hydroxy-6-phenylpyridine, 2-hydroxy-6-phenethylpyridine or 1-hydroxyisoquinoline is used in place of the sodium salt of 2-hydroxypyridine, the yields of benzyloxycarbonyl-L-valyl-L-valine methyl ester are 72, 83, 81, 76, 80 and 73%, respectively.

reactant | sodium | [Na] | Na
reactant | 5-cyano-2-hydroxypyridine | C(#N)C=1C=CC(=NC1)O | C6H4N2O
reactant | 2-hydroxy-4-methoxypyridine | OC1=NC=CC(=C1)OC | C6H7NO2
reactant | 2-hydroxy-6-phenylpyridine | OC1=NC(=CC=C1)C1=CC=CC=C1 | C11H9NO
reactant | 2-hydroxy-6-phenethylpyridine | OC1=NC(=CC=C1)CCC1=CC=CC=C1 | C13H13NO
reactant | 1-hydroxyisoquinoline | OC1=NC=CC2=CC=CC=C12 | C9H7NO
reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
product | benzyloxycarbonyl-L-valyl-L-valine methyl ester | COC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)C(C)C)=O | C19H28N2O5
